US08383852B2
To a stirred solution of ethyl 4-hydroxybenzoate (2.493 g, 15.0 mmol) and potassium carbonate (4.15 g, 30 mmol) in 60 mL of 2-butanone at ambient temperature was added in one portion of (bromomethyl)cyclobutane (97% pure) (2.53 g, 16.5 mmol). The stirred reaction mixture was heated at reflux for 16 hr. HPLC revealed the disappearance of the starting material of ethyl 4-hydroxybenzoate. The mixture was allowed to cool to ambient temperature. The solid was filtered off. The filter cake was washed with acetone. The combined filtrate was concentrated in vacuo to nearly dryness. Methanol was added (10 mL) was added to the residue, followed by the addition of a 2-N aqueous solution of NaOH (30 mL, 60 mmol). The reaction was stirred overnight at about 40° C. HPLC indicated that the saponification was completed, and revealed one single peak signal of the expected carboxylic acid. The reaction mixture was subjected to roto-vaporation to remove methanol. Ice was added to the basic aqueous solution. The acidification with a 35 mL of HCl aqueous 2N solution (70 mmol) led to the immediate precipitation of a white solid. Stirring was continued for an additional 30 min and then the precipitation was filtered off with suction through a sintered glass funnel. The collected solid was successively washed with three 50-mL portions of water, and two 25-mL portions of hexane. The collected solid was dried in vacuo for two days at ambient temperature to afford 2.63 g (85%) of 4-(cyclobutylmethoxy)benzoic acid as a white solid.

reactant | ethyl 4-hydroxybenzoate | 15.0 mmol, 2.493 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 30 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclobutane | 16.5 mmol, 2.53 g | BrCC1CCC1 | C5H9Br
reactant | NaOH | 60 mmol, 30 mL | [OH-].[Na+]
reactant | HCl | 2N, 35 mL | Cl | ClH
solvent | 2-butanone | 60 mL | CC(CC)=O | C4H8O
product | 4-(cyclobutylmethoxy)benzoic acid | 2.63 g, 85% | C1(CCC1)COC1=CC=C(C(=O)O)C=C1 | C12H14O3
